US03959322
Add mercuric sulphate (0.27 g) to a swirled solution of 1-diethylamino-6-(3,4-methylenedioxyphenyl)hex-2-yne (3 g) in 10% aqueous sulphuric acid (15 cc) and heat the mixture for 90 minutes at 75° in an atmosphere of nitrogen. Filter the cooled reaction mixture and add solid potassium carbonate to pH 8.5. Extract the product with ether; wash and dry and evaporate the solvent to leave as residue crude 1-diethylamino-6-(3,4-dihydroxyphenyl)hexan-3-one.

reactant | 1-diethylamino-6-(3,4-methylenedioxyphenyl)hex-2-yne | 3 g | C(C)N(CC#CCCCC1=CC2=C(C=C1)OCO2)CC | C17H23NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | sulphuric acid | 15 cc | S(O)(O)(=O)=O | H2O4S
product | 1-diethylamino-6-(3,4-dihydroxyphenyl)hexan-3-one | C(C)N(CCC(CCCC1=CC(=C(C=C1)O)O)=O)CC | C16H25NO3
